### PR TITLE
[Merged by Bors] - chore: generalise more lemmas from `LinearOrderedField` to `GroupWithZero`

### PR DESCRIPTION
**Pull request by YaelDillies**
... and move the lemmas from `Algebra.Order.Field.Basic` to `Algebra.Order.GroupWithZero.Unbundled`. Also take the opportunity to add `₀` at the end, per the naming convention, and to make the priming of the lemmas consistent among pairs (primes should be on the lemmas changing left multiplication into right multiplication).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Field/Basic.lean [hunk 1]
```diff
@@ -23,55 +24,46 @@ section LinearOrderedSemifield
...
-  exact div_le_iff₀' h
+@[deprecated div_lt_iff₀' (since := "2024-10-02")]
+theorem div_lt_iff' (hc : 0 < c) : b / c < a ↔ b < c * a := div_lt_iff₀' hc
 
-theorem inv_mul_le_iff' (h : 0 < b) : b⁻¹ * a ≤ c ↔ a ≤ c * b := by rw [inv_mul_le_iff h, mul_comm]
+@[deprecated inv_mul_le_iff₀ (since := "2024-10-02")]
+theorem inv_mul_le_iff (h : 0 < b) : b⁻¹ * a ≤ c ↔ a ≤ b * c := inv_mul_le_iff₀ h
 
-theorem mul_inv_le_iff (h : 0 < b) : a * b⁻¹ ≤ c ↔ a ≤ b * c := by rw [mul_comm, inv_mul_le_iff h]
+set_option linter.docPrime false in
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Field/Basic.lean:46]:
```suggestion
/-- Similar to `inv_mul_le_iff`, but with the multiplication on the other side. This version is
primed as the other keeps the multiplication by a term about `b` on the left. -/
```
if you'd like

Comment (b-mehta) [reply Mathlib/Algebra/Order/Field/Basic.lean:46]: oh oops you're deprecating this, the above is even more optional than it already was

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean [hunk 2]
```diff
@@ -1113,6 +1113,13 @@ end CancelMonoidWithZero
 section GroupWithZero
 variable [GroupWithZero G₀]
 
+section Preorder
+variable [Preorder G₀] [ZeroLEOneClass G₀]
+
+lemma div_self_le_one (a : G₀) : a / a ≤ 1 := by obtain rfl | ha := eq_or_ne a 0 <;> simp [*]
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1119]:
```suggestion
/-- See `div_self` for the version with equality in `Group G`. -/
lemma div_self_le_one (a : G₀) : a / a ≤ 1 := by obtain rfl | ha := eq_or_ne a 0 <;> simp [*]
```
I think something like this would be helpful for autocomplete users (although I guessed both the name and the correct generality for the other version, feel free to amend that)

File: Mathlib/Analysis/CStarAlgebra/Unitization.lean [hunk 3]
```diff
@@ -72,7 +72,7 @@ instance CStarRing.instRegularNormedAlgebra : RegularNormedAlgebra 𝕜 E where
       · simpa only [mem_closedBall_zero_iff, norm_smul, one_mul, norm_star] using
           (NNReal.le_inv_iff_mul_le ha.ne').1 (one_mul ‖a‖₊⁻¹ ▸ hk₂.le : ‖k‖₊ ≤ ‖a‖₊⁻¹)
       · simp only [map_smul, nnnorm_smul, mul_apply', mul_smul_comm, CStarRing.nnnorm_self_mul_star]
-        rwa [← NNReal.div_lt_iff (mul_pos ha ha).ne', div_eq_mul_inv, mul_inv, ← mul_assoc]
+        rwa [← div_lt_iff₀ (mul_pos ha ha), div_eq_mul_inv, mul_inv, ← mul_assoc]
```
Comment (b-mehta) [inline Mathlib/Analysis/CStarAlgebra/Unitization.lean:75]: nice!!

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled/Lemmas.lean [hunk 4]
```diff
@@ -0,0 +1,25 @@
...
+/-!
+# Multiplication by a positive element as an order isomorphism
+-/
+
+variable {G₀} [GroupWithZero G₀] [Preorder G₀] [ZeroLEOneClass G₀] {a b c d : G₀}
+
+/-- `Equiv.mulLeft₀` as an order_iso. -/
+@[simps! (config := { simpRhs := true })]
+def OrderIso.mulLeft₀ [PosMulMono G₀] [PosMulReflectLE G₀] (a : G₀) (ha : 0 < a) : G₀ ≃o G₀ :=
+  { Equiv.mulLeft₀ a ha.ne' with map_rel_iff' := @fun _ _ => mul_le_mul_left ha }
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/GroupWithZero/Unbundled/Lemmas.lean:20]: I wonder if it's possible to golf and avoid the @ here (optional)

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean [hunk 5]
```diff
@@ -1189,6 +1202,50 @@ lemma div_le_one₀ (hb : 0 < b) : a / b ≤ 1 ↔ a ≤ b := by rw [div_le_iff
...
+
+/-- See `inv_mul_lt_iff₀'` for a version with multiplication on the other side. -/
+lemma inv_mul_lt_iff₀ (hc : 0 < c) : c⁻¹ * b < a ↔ b < c * a where
+  mp h := by simpa [hc.ne'] using mul_lt_mul_of_pos_left h hc
+  mpr h := by simpa [hc.ne'] using mul_lt_mul_of_pos_left h (inv_pos.2 hc)
+
+lemma one_lt_inv_mul₀ (ha : 0 < a) : 1 < a⁻¹ * b ↔ a < b := by rw [lt_inv_mul_iff₀ ha, mul_one]
+lemma inv_mul_lt_one₀ (ha : 0 < a) : a⁻¹ * b < 1 ↔ b < a := by rw [inv_mul_lt_iff₀ ha, mul_one]
+
+lemma one_lt_inv₀ (ha : 0 < a) : 1 ≤ a⁻¹ ↔ a ≤ 1 := by simpa using one_le_inv_mul₀ ha (b := 1)
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1222]: This is an `le` lemma called `lt`. I guess you intended to add the `le` version and move the `lt` version but something got mixed up?

**Review by b-mehta — APPROVED** [review]
Mostly minor suggestions, but let's make sure `one_lt_inv₀` as a statement doesn't get lost.

Is the `₀` convention documented somewhere? It's certainly being made more consistent with PRs like this one, but it would be nice to actually write it down

File: Mathlib/Algebra/Order/Field/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Field/Basic.lean:46]: Yeah. I actually don't know why the linter suddenly became active on this declaration even though it was already nolinted

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1222]: Got mixed up indeed!

**Comment by b-mehta** [comment]
bors d+

**Comment by YaelDillies** [comment]
bors merge

**Comment by b-mehta** [comment]
bors r-

Let's make sure the build works before trying to merge again!

**Comment by YaelDillies** [comment]
The build works 😐

**Comment by YaelDillies** [comment]
bors merge

File: Mathlib/Algebra/Order/Field/Basic.lean [hunk 6]
```diff
@@ -23,55 +24,46 @@ section LinearOrderedSemifield
...
+@[deprecated inv_mul_le_iff₀' (since := "2024-10-02")]
+theorem inv_mul_le_iff' (h : 0 < b) : b⁻¹ * a ≤ c ↔ a ≤ c * b := inv_mul_le_iff₀' h
 
-theorem mul_inv_le_iff' (h : 0 < b) : a * b⁻¹ ≤ c ↔ a ≤ c * b := by rw [mul_comm, inv_mul_le_iff' h]
+@[deprecated mul_inv_le_iff₀' (since := "2024-10-02")]
+theorem mul_inv_le_iff (h : 0 < b) : a * b⁻¹ ≤ c ↔ a ≤ b * c := mul_inv_le_iff₀' h
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Field/Basic.lean:51]: It looks like you swapped which lemma gets the prime here, and similarly for the lt version; both in a way inconsistent with the pattern of keeping `b` on the same side of the multiplication. Another mix-up?

Comment (b-mehta) [reply Mathlib/Algebra/Order/Field/Basic.lean:51]: Oops I misread, this is indeed consistent. Let's flag this change in the PR description instead.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Field/Basic.lean:51]: No, the original lemmas were inconsistent about which lemmas get the prime. I am fixing the inconsistency here: `mul_inv_le_iff₀'` is primed and proves the case where `b` switches sides

Comment (b-mehta) [reply Mathlib/Algebra/Order/Field/Basic.lean:51]: Indeed :)

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Field/Basic.lean:51]: Race condition :)

**Comment by b-mehta** [comment]
bors merge
